### PR TITLE
Add Erdős Problem 407 (Newman's conjecture on 2^a + 3^b + 2^c 3^d), link the formal proof

### LINKED ISSUE #6307: Erdős Problem 407
### What is the Erdős problem?

https://www.erdosproblems.com/407

Let $w(n)$ count the number of solutions to $n=2^a+3^b+2^c3^d$ with $a,b,c,d\geq 0$ integers. Is it true that $w(n)$ is bounded by some absolute constant?

Status: proved (Newman's conjecture; Evertse–Győry–Stewart–Tijdeman, effective bounds by Bajpai–Bennett). A formal proof exists in plby/lean-proofs (`Erdos407.erdos_407`, Codex and GPT-5.6 Sol), including a specialised $p$-adic Subspace Theorem.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6307.

### What changed
Adds `FormalConjectures/ErdosProblems/407.lean` with `w n` (the number of ordered quadruples `(a,b,c,d)` with `n = 2^a + 3^b + 2^c 3^d`, as an `ncard`) and:
- `erdos_407` (`research solved`, `answer(True)`): `w` is bounded (Newman's conjecture; Evertse–Győry–Stewart–Tijdeman [EGST88]). Linked to plby/lean-proofs `Erdos407.erdos_407` (Codex and GPT-5.6 Sol; 63 Mathlib-only files, including a specialised rational three-place `p`-adic Subspace Theorem via adelic successive minima).

### How checked
- Rebuilt all 63 files of plby's closure against this repo's Mathlib: `#print axioms Erdos407.erdos_407` → `[propext, Classical.choice, Quot.sound]`, no `native_decide`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's solutions are a structure of four exponents; the bridge is the evident bijection with quadruples):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge407

/-- Ordered quadruples correspond to plby's `Rep` structures. -/
lemma w_eq (n : ℕ) : Erdos407.w n = Erdos407Plby.w n := by
  unfold Erdos407.w Erdos407Plby.w
  have e : {x : ℕ × ℕ × ℕ × ℕ | 2 ^ x.1 + 3 ^ x.2.1 + 2 ^ x.2.2.1 * 3 ^ x.2.2.2 = n} ≃
      Erdos407Plby.solutions n :=
    { toFun := fun x => ⟨⟨x.1.1, x.1.2.1, x.1.2.2.1, x.1.2.2.2⟩, x.2⟩
      invFun := fun r => ⟨(r.1.a, r.1.b, r.1.c, r.1.d), r.2⟩
      left_inv := fun x => rfl
      right_inv := fun r => rfl }
  exact Set.ncard_congr' e

theorem erdos_407_bridge : type_of% Erdos407.erdos_407 := by
  show True ↔ _
  simp only [true_iff, w_eq]
  exact Erdos407Plby.erdos_407

end Bridge407
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«407»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/407.lean [hunk 1]
```diff
@@ -0,0 +1,65 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/407.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]

**Review by mo271 — APPROVED** [review]
